US07893099B2
Step 1: (1R,2R)-4-(2-Chloro-benzenesulfonyl)-2-methoxymethyl-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide (epimeric mixture)
The title compound was synthesized in analogy to Example 68/69, Step 11, from (1R,2R)-4-(2-Chloro-benzenesulfonyl)-2-methoxymethyl-cyclopentanecarboxylic acid (epimeric mixture) and 1-amino-cyclopropyl cyanic hydrochloride to afford the desired product as a yellow foam. MS (EI): 397.0 (M+H)+.

reactant | (1R,2R)-4-(2-Chloro-benzenesulfonyl)-2-methoxymethyl-cyclopentanecarboxylic acid | ClC1=C(C=CC=C1)S(=O)(=O)C1C[C@H]([C@@H](C1)C(=O)O)COC | C14H17ClO5S
reactant | 1-amino-cyclopropyl cyanic hydrochloride | C1CC1(C#N)N.Cl
product | (1R,2R)-4-(2-Chloro-benzenesulfonyl)-2-methoxymethyl-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CC(C1)S(=O)(=O)C1=C(C=CC=C1)Cl)COC | C18H21ClN2O4S
